US09120804B2
2,2,2-trifluoro-1-{6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1H-indol-3-yl}-ethanone (“C112”)
8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine is reacted with 1-(6-bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone, available by reaction of 6-bromo-1H-indole (1 eq.) with TFA (1.6 eq) in DMF at 120° C. for 1 h, under conditions described in general procedure 2.

reactant | 8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
reactant | 1-(6-bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | BrC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5BrF3NO
reactant | 6-bromo-1H-indole | 1 eq. | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | TFA | 1.6 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,2,2-trifluoro-1-{6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1H-indol-3-yl}-ethanone | FC(C(=O)C1=CNC2=CC(=CC=C12)NC1=NN2C(C(=NC=C2)C=2C=NN(C2)C)=N1)(F)F | C19H13F3N8O
